US08247421B2
Step 4: Trans-tert-butyl (R)-1-(4-((R)-2-hydroxypropanamido)cyclohexyl)ethylcarbamate
Trans-tert-butyl (R)-1-(4-aminocyclohexyl)ethylcarbamate (125 mg, 0.52 mmol) was dissolved in DMF (3 mL). D-Lactic Acid (49.52 mg, 0.52 mmol), diisopropylethylamine (166.6 mg, 224.5 μL, 1.29 mmol) and TBTU (165.6 mg, 0.5158 mmol) were successively added. The reaction mixture was allowed to stir at ambient temperature for 3 hours. The crude mixture was partitioned between ethyl acetate and brine. The organic extracts were dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified on silica gel by column chromatography (ISCO Companion□, 12 g column, 0-10% MeOH/DCM) to afford the title compound (66.1 mg, 41% yield).

reactant | Trans-tert-butyl (R)-1-(4-aminocyclohexyl)ethylcarbamate | 0.52 mmol, 125 mg | N[C@@H]1CC[C@H](CC1)[C@@H](C)NC(OC(C)(C)C)=O | C13H26N2O2
reactant | D-Lactic Acid | 0.52 mmol, 49.52 mg | C([C@H](O)C)(=O)O | C3H6O3
reactant | diisopropylethylamine | 1.29 mmol, 224.5 μL, 166.6 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | TBTU | 0.5158 mmol, 165.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Trans-tert-butyl (R)-1-(4-((R)-2-hydroxypropanamido)cyclohexyl)ethylcarbamate | 66.1 mg, 41% yield | O[C@@H](C(=O)N[C@@H]1CC[C@H](CC1)[C@@H](C)NC(OC(C)(C)C)=O)C | C16H30N2O4
